US08278457B2
Step 2. Synthesis of N-{2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]ethyl}methanesulfonamide
Trifluoroacetic acid (10 mL) was added to a 0° C. solution of tert-butyl(methylsulfonyl){2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]ethyl}carbamate (from the previous step, assumed 19.7 mmol) in dichloromethane (100 mL). The reaction mixture was allowed to warm to room temperature and stir for 18 hours. It was then cooled to 0° C. and brought to pH 10.5 with a 4N aqueous sodium hydroxide solution. The organic layer was washed with saturated aqueous sodium chloride solution, dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was purified via silica gel chromatography (Gradient: 0% to 5% methanol in dichloromethane) to provide the title compound as an off-white solid. Yield: 2.5 g, 7.7 mmol, 39% over two steps. LCMS m/z 326.1 (M+1). 1H NMR (400 MHz, CDCl3) δ 1.35 (s, 12H), 2.84 (s, 3H), 2.90 (t, J=6.8 Hz, 2H), 3.42 (dt, J=6.6, 6.6 Hz, 2H), 4.18 (br t, J=6 Hz, 1H), 7.23 (d, J=8.1 Hz, 2H), 7.78 (d, J=8.1 Hz, 2H).

reactant | Trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl(methylsulfonyl){2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]ethyl}carbamate | C(C)(C)(C)OC(N(CCC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)S(=O)(=O)C)=O | C20H32BNO6S
reactant | sodium hydroxide | 4N | [OH-].[Na+]
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | N-{2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]ethyl}methanesulfonamide | CC1(OB(OC1(C)C)C1=CC=C(C=C1)CCNS(=O)(=O)C)C | C15H24BNO4S
